US08202858B2
2-[(3-Ethoxycarbonyl-propyl)-(toluene-4-sulfonyl)-amino]-benzoic Acid Methyl Ester
2-(Toluene-4-sulfonylamino)-benzoic acid methyl ester from Example E5.1 (100 g) was dissolved in DMF (250 ml). Potassium carbonate (125 g) and ethyl 4-bromobutanoate (60 g) were added and the mixture was heated at 80° C. for 18 h. The mixture was cooled to room temperature, filtered and reduced in vacuo. The residue was partitioned between chloroform and 1M HCl solution. The aqueous layer was extracted with chloroform. The organic layers were combined, washed with brine, dried, filtered and concentrated in vacuo. The material was crystallised from EtOAc/hexane and dried in a vacuum oven at 60° C. for 3 hours to yield the title compound (98.6 g, 72%).

reactant | 2-(Toluene-4-sulfonylamino)-benzoic acid methyl ester | COC(C1=C(C=CC=C1)NS(=O)(=O)C1=CC=C(C=C1)C)=O | C15H15NO4S
reactant | Potassium carbonate | 125 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl 4-bromobutanoate | 60 g | BrCCCC(=O)OCC | C6H11BrO2
solvent | DMF | 250 ml | CN(C)C=O | C3H7NO
product | 2-[(3-Ethoxycarbonyl-propyl)-(toluene-4-sulfonyl)-amino]-benzoic Acid Methyl Ester | 98.6 g, 72% | COC(C1=C(C=CC=C1)N(S(=O)(=O)C1=CC=C(C=C1)C)CCCC(=O)OCC)=O | C21H25NO6S
